US03962259
Reaction of 2-bromo-4-chlorobenzyl alcohol and 1-methyl-4-piperidone by the method described in Example 16a provides 4-(4-chloro-α-hydroxy-2-tolyl)-4-hydroxy-1-methylpiperidine.

reactant | 2-bromo-4-chlorobenzyl alcohol | BrC1=C(CO)C=CC(=C1)Cl | C7H6BrClO
reactant | 1-methyl-4-piperidone | CN1CCC(CC1)=O | C6H11NO
product | 4-(4-chloro-α-hydroxy-2-tolyl)-4-hydroxy-1-methylpiperidine | ClC1=CC(=C(C=C1)CO)C1(CCN(CC1)C)O | C13H18ClNO2
